US06930120B2
3-(5-Methyl-2-phenyl-oxazol-4-yl)-propionitrile
Toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester (5.00 g, 14.0 mmol), sodium cyanide (852 mg, 16.8 mmol), and potassium bicarbonate (1.70 g, 16.8 mmol) were combined and vigorously stirred in DMSO (50 mL) at 50° C. for 2 h, then overnight at 25° C. The mixture was then poured into H2O (50 mL) and extracted with Et2O (2×50 mL). The organic layer were combined then washed with H2O (50 mL), sat. NaCl (50 mL), dried over NaCl. The solvent was removed in vacuo to provide 2.90 g (98%) of product as a white powder: 1H NMR (400 MHz, CDCl3) δ 7.93 (m, 2H), 7.39 (m, 3H), 2.81 (t, 2H), 2.71 (t, 2H), 2.35 (s, 3H); MS (EI) 213.1 (M+H)+.

reactant | Toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester | 14.0 mmol, 5.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | sodium cyanide | 16.8 mmol, 852 mg | [C-]#N.[Na+]
reactant | potassium bicarbonate | 16.8 mmol, 1.70 g | C([O-])(O)=O.[K+]
reactant | H2O | 50 mL | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 3-(5-Methyl-2-phenyl-oxazol-4-yl)-propionitrile | 2.90 g, 98% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC#N | C13H12N2O
